US07910595B2
4-(4-Hydroxy-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester
A suspension of N′-(3-cyano-6-isopropyl-pyridin-2-yl)-N,N-dimethyl-formamidine (0.75 g, 3.5 mmol) and 3-amino-4-(4-hydroxy-phenylsulfanyl)-benzoic acid methyl ester (0.96 g, 3.5 mmol) in AcOH (15 mL) was heated at 120° C. for 10 minutes under N2. The reaction mixture was portioned between AcOEt (10 mL) and H2O (150 mL) and made basic to pH 9 with K2CO3 under stirring. The resulting solid was collected by filtration, washed with H2O and AcOEt, and dried at 50° C. overnight under reduced pressure to give the title compound as pale brown crystal (1.27 g, 82%).

reactant | N′-(3-cyano-6-isopropyl-pyridin-2-yl)-N,N-dimethyl-formamidine | 3.5 mmol, 0.75 g | C(#N)C=1C(=NC(=CC1)C(C)C)N=CN(C)C | C12H16N4
reactant | 3-amino-4-(4-hydroxy-phenylsulfanyl)-benzoic acid methyl ester | 3.5 mmol, 0.96 g | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)O)N)=O | C14H13NO3S
reactant | AcOEt | 10 mL | CCOC(=O)C | C4H8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
solvent | H2O | 150 mL | O | H2O
product | 4-(4-Hydroxy-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester | 1.27 g, 82% | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)O)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C)=O | C24H22N4O3S
